US07566699B2
To a solution of 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-carboxyphenyl)ethyl]benzofuran (0.12 g) in N,N-diemthylformamide (2 mL) were added benzyl 2-aminoacetate hydrochloride (48 mg), 1-hydroxybenzotriazole (32 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (77 mg) and triethylamine (0.11 mL), and the mixture was stirred at room temperature for three days. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water, a saturated aqueous sodium hydrogen carbonate solution and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1-1/2) to give 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-{2-[4-(benzyloxycarbonylmethylcarbamoyl)phenyl]ethyl}benzofuran (94 mg). This material was dissolved in methanol (3 mL). To the solution was added 10% palladium-carbon powder (40 mg), and the mixture was stirred at room temperature under a hydrogen atmosphere for 1 hour. The insoluble material was removed by filtration, and the solvent of the filtrate was removed under reduced pressure to give the title compound (82 mg).

reactant | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-[2-(4-carboxyphenyl)ethyl]benzofuran | 0.12 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)C(=O)O | C31H32O13
reactant | benzyl 2-aminoacetate hydrochloride | 48 mg | Cl.NCC(=O)OCC1=CC=CC=C1
reactant | 1-hydroxybenzotriazole | 32 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 77 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | triethylamine | 0.11 mL | C(C)N(CC)CC | C6H15N
product | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-{2-[4-(benzyloxycarbonylmethylcarbamoyl)phenyl]ethyl}benzofuran | 94 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC2=C1C(=CO2)CCC2=CC=C(C=C2)C(NCC(=O)OCC2=CC=CC=C2)=O | C40H41NO14
